US04794108
Synthesis of (3S,4S)-3-(tert-butoxycarbonylamino)-4-carbamoyloxymethyl-1-(p-nitrobenzyloxycarbonylmethoxy)-2-azetidinone.
In 40 ml of acetonitrile is dissolved 650 mg of (3S,4S)3-(tert-butoxycarbonylamino)-4-carbamoyloxymethyl-1-hydroxy-2-azetidinone, and 0.39 ml of triethylamine and 712 mg of p-nitrobenzyl bromoacetate are added to the solution under ice-cooling with stirring. The reaction solution is stirred at room temperature (15°-25° C.) for 3.5 hours. The solvent is distilled off under reduced pressure, and 50 ml of a mixed solution (1:1) of ethyl acetate and tetrahydrofuran and 50 ml of water are added to the residue. The organic layer is separated, washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The remaining crystals are treated with 15 ml of a mixed solution (1:2) of ether and hexane and filtered to give 98 mg (88.6%) of the above-identified comoound as crystals, m.p. 189°-191° C.

reactant | (3S,4S)3-(tert-butoxycarbonylamino)-4-carbamoyloxymethyl-1-hydroxy-2-azetidinone | 650 mg | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@@H]1COC(N)=O)O)=O | C10H17N3O6
reactant | triethylamine | 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | p-nitrobenzyl bromoacetate | 712 mg | BrCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C9H8BrNO4
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | (3S,4S)-3-(tert-butoxycarbonylamino)-4-carbamoyloxymethyl-1-(p-nitrobenzyloxycarbonylmethoxy)-2-azetidinone | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@@H]1COC(N)=O)OCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H24N4O10
